US05120732
b) 2-Hydroxyethyl 2-amino-2-methylpropyl sulphide
234 g of 2-mercaptoethanol are dissolved in 90 ml of dimethoxyethane. 63.3 g of 2,2-dimethylaziridine are added dropwise to this solution and the mixture is stirred at 70° C. for 4 hours and concentrated, and the residue is distilled in a water jet vacuum. B.p.: 141°-142° C. (at 20 mbar); M.p.: 49°-51°;

reactant | 2-mercaptoethanol | 234 g | SCCO | C2H6OS
reactant | 2,2-dimethylaziridine | 63.3 g | CC1(NC1)C | C4H9N
solvent | dimethoxyethane | 90 ml | C(OC)COC | C4H10O2
product | 2-Hydroxyethyl 2-amino-2-methylpropyl sulphide | NC(CSCCO)(C)C | C6H15NOS
